US05302593
b) Preparation of 6-(N-methylpiperazinyl)hexylamine
Hydrazine (aqueous solution at 35% by wt.) (0.15 ml; 1.6 mmoles) was added to 6-(N-methylpiperazinyl)hexylphthalimide (263 mg; 0.8 mmoles) in methanol (5 ml) and the resulting solution was refluxed. Reaction times and process as per Example 1.

reactant | Hydrazine | 1.6 mmoles, 0.15 ml | NN | H4N2
reactant | 6-(N-methylpiperazinyl)hexylphthalimide | 0.8 mmoles, 263 mg | CN1C(CNCC1)CCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C19H27N3O2
solvent | methanol | 5 ml | CO | CH4O
product | 6-(N-methylpiperazinyl)hexylamine | CN1C(CNCC1)CCCCCCN | C11H25N3
